US04837003
A solution of (6-cyanohexyl)bis(2-phthalimidoethyl)amine (13.8g, 0.029 mol) and hydrazine (2.15g, 0.067 mol) in methanol (150 ml) was refluxed for 1.5 hours and allowed to stand overnight. The solvent was removed under reduced pressure and the residue was taken up in water (200 ml) and brought to pH≈2 with HC1. The precipitate was removed by filtration and the filtrate was made basic with solid NaOH. The solution was then concentrated under reduced pressure and extracted with dichloromethane (4×50 ml). The combined organic extracts were dried over Na2SO4 and evaporated under reduced pressure. Kugelrohr distillation of the residue gave pure (6-cyanohexyl)bis(2-aminoethyl)amine as a water white liquid (4.1g-67%) collected between 120° and 140° C. (pot temp) at 0.07 mm Hg. The ir spectrum was consistent with the assigned structure, as was the elemental analysis.

reactant | (6-cyanohexyl)bis(2-phthalimidoethyl)amine | 0.029 mol, 13.8g | C(#N)CCCCCCN(CCN1C(C=2C(C1=O)=CC=CC2)=O)CCN2C(C=1C(C2=O)=CC=CC1)=O | C27H28N4O4
reactant | hydrazine | 0.067 mol, 2.15g | NN | H4N2
solvent | methanol | 150 ml | CO | CH4O
product | (6-cyanohexyl)bis(2-aminoethyl)amine | C(#N)CCCCCCN(CCN)CCN | C11H24N4
